US06867185B2
(1S,4R,6S,14S,18R)-7-cis-[14-tert-butoxycarbonylamino-2,15-dioxo-18-(quinolin-4-yloxy)-3,16-diaza tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid, the product of Step F in Example 30 (50 mg, 0.075 mmol) was reacted in analogous fashion with methanesulfonamide (12 mg, 0.12 mmol) as described in the preceding procedure above to give 10 mg (20%) of (1S,4R,6S,14S,18R)-7-cis-[4-methanesulfonylaminocarbonyl-2,15-dioxo-18-(quinolin-4-yloxy)-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-en-14-yl]-carbamic acid tert-butyl ester as a white solid: 1H NMR (300 MHz, CDCl3) δ 1.26 (s, 9H), 1.22-1.94 (m, 11H), 2.27 (m, 1H), 2.55 (m, 1H), 2.67 (m, 2H), 3.17 (s, 3H), 4.05 (m, 1H), 4.27 (m, 1H), 4.61 (t, J=8.1 Hz, 1H), 4.73 (d, J=11.0 Hz, 1H), 4.96-5.02 (m, 2H), 5.35 (s, 1H), 5.71 (q, J=8.8 Hz, 1H), 6.73 (d, J=5.1 Hz, 1H), 6.93 (bs, 1H), 7.43 (t, J=7.7 Hz, 1H), 7.69 (t, J=7.7 Hz, 1H), 8.06 (d, J=8.8 Hz, 1H), 8.15 (d, J=7.7 Hz, 1H), 8.77 (d, J=5.5 Hz, 1H). LC-MS (Method A, retention time: 2.43 min), MS m/z 670 (M++1). Preparation of Example 32, 2(S)-tert-butoxycarbonylamino-3-pentenylsulfanylpropionic acid methyl ester (Example 32) for use in Example 33.

reactant | 14-tert-butoxycarbonylamino-2,15-dioxo-18-(quinolin-4-yloxy)-3,16-diaza tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=CC=NC2=CC=CC=C12)=O)C(=O)O | C32H40N4O7
reactant | methanesulfonamide | 0.12 mmol, 12 mg | CS(=O)(=O)N | CH5NO2S
product | (1S,4R,6S,14S,18R)-7-cis-[4-methanesulfonylaminocarbonyl-2,15-dioxo-18-(quinolin-4-yloxy)-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | 10 mg, 20% | C(C)(C)(C)OC(N[C@H]1CCCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)OC1=CC=NC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C)=O | C33H43N5O8S
